US06828460B2
3-(2,4-Dihydroxyphenyl)-2-cyclopentenone Oxime
3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclopenten-1-one (20 mg) was heated at 50° C. in MeOH (4 ml) containing acidic ion exchange resin (100 mg) for 3 hr. The reaction mixture was filtered and the resin washed with ethyl acetate (20 ml). The filtrate was concentrated in vacuo and the residue purified by flash column chromatography (SiO2, ethyl acetate/petrol, 7:3 v/v) to furnish 3-(2,4-dihydroxyphenyl)-2-cyclopenten-1-one (11 mg, 79%). 3-(2,4-Dihydroxyphenyl)-2-cyclopenten-1-one (6 mg), hydroxylamine hydrochloride (3.3 mg) and triethylamine (6.6 μl) were heated in ethanol (3 ml) under reflux for 3 hr. The reaction mixture was partitioned between ethyl acetate (20 ml) and water (20 ml). The aqueous phase was extracted with ethyl acetate (10 ml), and the combined organic phases were washed with brine (10 ml), dried over magnesium sulfate, and concentrated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:1 v/v) to furnish the title compound as a yellow solid and as one major isomer (4 mg, 62%). Data reported for the major isomer: δH (d4-MeOH) 2.74-2.77 (2H, m), 2.96-2.99 (2H, m), 6.34 (1H, dd), 6.38 (1H, d), 6.96 (1H, t), 7.22 (1H, d); m/z (ES−) 204 (M−H)−.

reactant | 3-(2,4-Dihydroxyphenyl)-2-cyclopenten-1-one | 6 mg | OC1=C(C=CC(=C1)O)C1=CC(CC1)=O | C11H10O3
reactant | hydroxylamine hydrochloride | 3.3 mg | Cl.NO
reactant | triethylamine | 6.6 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-(2,4-Dihydroxyphenyl)-2-cyclopentenone Oxime | OC1=C(C=CC(=C1)O)C1=CC(CC1)=NO | C11H11NO3
